US04891363
(2RS)-2-Benzyloxymethyl-7-(2-methoxyethoxy)methoxy-1-heptanol
A solution of 3.06 g of 2-hydroxymethyl-7-(2-methoxyethoxy)methoxy-1-heptanol (prepared as described in Preparation 80) dissolved in 20 ml of dimethylformamide was added dropwise to 587 mg of sodium hydride (as a 55% w/w dispersion in mineral oil) dispersed in 40 ml of dimethylformamide, whilst ice-cooling (at 5° to 7° C.). The mixture was then stirred at room temperature for 1 hour, after which 1.60 ml of benzyl bromide were added dropwise, whilst ice-cooling (at 5° to 7° C.) The reaction mixture was stirred at room temperature for 2 hours, after which it was poured into 300 ml of water and then extracted five times with ethyl acetate. The combined extracts were washed with water, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The resulting oily residue was subjected to column chromatography through 60 g of silica gel, and 2.37 g of the title compound were obtained, as a colorless oil, from the fractions eluted with mixtures of hexane and ethyl acetate ranging from 2:1 to 1:1 by volume.

reactant | 2-hydroxymethyl-7-(2-methoxyethoxy)methoxy-1-heptanol | 3.06 g | OCC(CO)CCCCCOCOCCOC | C12H26O5
reactant | sodium hydride | 587 mg | [H-].[Na+]
reactant | benzyl bromide | 1.60 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 300 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | (2RS)-2-Benzyloxymethyl-7-(2-methoxyethoxy)methoxy-1-heptanol | 2.37 g | C(C1=CC=CC=C1)OCC(CO)CCCCCOCOCCOC | C19H32O5
